US04499103
To ammonium hydroxide (14.8M) (90 ml.) were added dropwise simultaneously sodium hypochlorite solution (5.25%) (42.4 ml.) and a solution of sodium hydroxide (1.2 g., 0.03 mole) and 2-mercapto-6-nitrobenzothiazole (6.37 g., 0.03 mole) in H2O (80 ml.) with stirring at <5° C. After 1/2 hr. the precipitated solid was collected by suction filtration and washed well with ice-H2O. The wet solid was suspended in acetone (120 ml.) with stirring at 25° C., treated with glacial acetic acid (2.4 ml.), then immediately treated dropwise wth 5% aqueous potassium permanganate solution (6.6 g, 0.04 mole in 120 ml H2O) over a 1/2 hr. period maintaining the reaction mixture temperature at <30° C. After stirring for an additional hour, the mixture was filtered to remove precipitated manganese dioxide, and the filtrate concentrated to remove the acetone and precipitate the solid product. Crystallization from 1,2-dichloroethane gave 1.18 g 6-nitro-2-benzothiazolesulfonamide, m.p. 176°-178° C. (dec).

reactant | ammonium hydroxide | 14.8M, 90 ml | [OH-].[NH4+]
reactant | sodium hypochlorite | 42.4 ml | Cl[O-].[Na+]
reactant | sodium hydroxide | 0.03 mole, 1.2 g | [OH-].[Na+]
reactant | 2-mercapto-6-nitrobenzothiazole | 0.03 mole, 6.37 g | SC=1SC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C7H4N2O2S2
reactant | potassium permanganate | 0.04 mole, 120 ml, 6.6 g | [Mn](=O)(=O)(=O)[O-].[K+]
solvent | H2O | 80 ml | O | H2O
product | 6-nitro-2-benzothiazolesulfonamide | 1.18 g | [N+](=O)([O-])C1=CC2=C(N=C(S2)S(=O)(=O)N)C=C1 | C7H5N3O4S2
